US07651687B2
1-{trans-4-[8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl]cyclohexyl}methanamine
A solution of benzyl {[trans-4-(8-amino-1-(1H-indol-2-yl)imidazo [1,5-a]pyrazin-3-yl)cyclohexyl]methyl}carbamate (0.163 g, 0.330 mmol) in conc. HCl (5 ml) was stirred at rt overnight. The reaction mixture was diluted with H2O (20 mL), washed with Et2O (30 mL), then basified with 1N NaOH (aq) and extracted with DCM (3×20 mL). The combined extracts were washed with water then dried over Na2SO4 and concentrated in vacuo To afford 0.085 g of desired compound. MS (ES+): m/z 361.30 [MH+].

reactant | benzyl {[trans-4-(8-amino-1-(1H-indol-2-yl)imidazo [1,5-a]pyrazin-3-yl)cyclohexyl]methyl}carbamate | 0.330 mmol, 0.163 g | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)[C@@H]2CC[C@H](CC2)CNC(OCC2=CC=CC=C2)=O | C29H30N6O2
solvent | HCl | 5 ml | Cl | ClH
solvent | H2O | 20 mL | O | H2O
product | 1-{trans-4-[8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl]cyclohexyl}methanamine | 0.085 g | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)[C@@H]2CC[C@H](CC2)CN | C21H24N6
